US07569600B2
To a solution of lithium 5-bromo-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methylcyclohexanecarbonyl)-amino]-thiophene-2-carboxylate (498 mg, 1.10 mmol) and 1,4-dioxaspiro[4,5]dec-7-en-8-boronic acid (412 mg, 1.55 mmol) in DMF (6 mL) was added 2M solution of Na2CO3 (3 mL), and the mixture was deoxygenated by bubbling nitrogen through solution for 10 min. Then Pd(PPh3)4 was added to the mixture, and it was refluxed under nitrogen for 2 h. The mixture was brought to room temperature and filtered through a celite pad washing with EtOAc and H2O. Filtrate was extracted with EtOAc (4×), then aqueous fraction was separated and acidified with 2N HCl till pH 2-3. The mixture was extracted with CH2Cl2 and CH2Cl2-MeOH, organic fraction was dried over Na2SO4 and evaporated to dryness. Crude compound was recrystallized from CH3CN to afford 453 mg (82%) of 5-(1,4-dioxa-spiro[4.5]dec-7-en-8-yl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid as a solid.

reactant | lithium 5-bromo-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methylcyclohexanecarbonyl)-amino]-thiophene-2-carboxylate | 1.10 mmol, 498 mg | BrC1=CC(=C(S1)C(=O)[O-])N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O.[Li+]
reactant | 1,4-dioxaspiro[4,5]dec-7-en-8-boronic acid | 1.55 mmol, 412 mg | O1CCOC12CC=C(CC2)B(O)O | C8H13BO4
reactant | Na2CO3 | 3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 5-(1,4-dioxa-spiro[4.5]dec-7-en-8-yl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid | 453 mg, 82% | O1CCOC12CC=C(CC2)C2=CC(=C(S2)C(=O)O)N(C(=O)[C@@H]2CC[C@H](CC2)C)[C@@H]2CC[C@H](CC2)O | C27H37NO6S
